US06642389B2
0.037 g (1.54 mmol) Sodium hydride was added in small portions below 30° C. and under argon to a solution of 0.30 g (1.03 mmol) [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester in 5.0 ml N,N-dimethylformamide. After 10 minutes, 0.384 g (1.54 mmol) 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole (prepared from 4-isopropyl-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 21 a] and b]) were added and the reaction mixture then stirred for 16 hours at ambient temperature. It was then diluted with water and extracted with ether. The combined organic phases were dried over MgSO4 and evaporated. The residue formed was purified by flash-chromatography (silica gel; eluent: gradient of hexane and ethyl acetate) to give 0.35 g (67%) of [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-5,6,7,8-tetrahydro-naphthalen-1-yl}-propionic acid ethyl ester as colorless oil.

reactant | Sodium hydride | 1.54 mmol, 0.037 g | [H-].[Na+]
reactant | [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | 1.03 mmol, 0.30 g | C(C)OC(C(CC1=CC=C(C=2CCCCC12)O)OCC)=O | C17H24O4
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole | 1.54 mmol, 0.384 g | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
reactant | 4-isopropyl-benzaldehyde | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-5,6,7,8-tetrahydro-naphthalen-1-yl}-propionic acid ethyl ester | 0.35 g, 67% | C(C)OC(C(CC1=CC=C(C=2CCCCC12)OCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C)OCC)=O | C31H39NO5
